US05591741
8-t-Butyl-3-cyclohexylaminoethyl-1-oxaspiro(4,5)decane
To a solution of 8-t-butyl-3-aminoethyl-1-oxaspiro(4,5)decane hydrochloride (1.10 g, 4 mmol) in methanol (15 ml) was added sodium methylate (4 ml, 1N in methanol), cyclohexanone (0.41 g, 4.2 mmol) zinc chloride (0.32 g, 2.5 mmol) and sodium cyanoborohydride (0.32 g, 5 mmol). The reaction mixture was stirred at room temperature over night. The solvent was removed in vacuo and the residue was taken up in toluene (50 ml)/sat. aqueous sodium carbonate (50 ml). Drying and evaporation of the organic layer furnished the product as a colurless oil (1.3 g). It was purified by flash chromatography (light petroleum/triethylamine 10:1). Evaporation of the fractions containing the product furnished a colourless oil (1.0 g). 1H-NMR (CDCl3, ppm): 3.93 (t,1H); 3.37(t,1H); 2.58(m,2H); 2.37(m, 1H); 2.27(m, 1H); 1.93-0.90(m,24H); 0.85(s,9H).

reactant | 8-t-butyl-3-aminoethyl-1-oxaspiro(4,5)decane hydrochloride | 4 mmol, 1.10 g | Cl.C(C)(C)(C)C1CCC2(CC(CO2)CCN)CC1
reactant | sodium methylate | 1N, 4 ml | C[O-].[Na+]
reactant | cyclohexanone | 4.2 mmol, 0.41 g | C1(CCCCC1)=O | C6H10O
reactant | sodium cyanoborohydride | 5 mmol, 0.32 g | C(#N)[BH3-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 8-t-Butyl-3-cyclohexylaminoethyl-1-oxaspiro(4,5)decane | 1.3 g | C(C)(C)(C)C1CCC2(CC(CO2)CCNC2CCCCC2)CC1 | C21H39NO
